US07378417B2
5-(4-Chloro-3-methyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-cyclopropylsulfamoyl-phenyl)-amide
The title compound was prepared from 5-(4-chloro-3-methyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.6) and 3-amino-N-cyclopropyl-benzenesulfonamide [CAS 459434-39-0] according to general procedure II. Yellow solid. MS (ISP) 548.1 [(M−H)−]; mp 244° C.

reactant | 5-(4-chloro-3-methyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | ClC1=C(C=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C(=O)O)C | C15H9ClF3N3O2
reactant | 3-amino-N-cyclopropyl-benzenesulfonamide | NC=1C=C(C=CC1)S(=O)(=O)NC1CC1 | C9H12N2O2S
product | 5-(4-Chloro-3-methyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-cyclopropylsulfamoyl-phenyl)-amide | C1(CC1)NS(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC(=C(C=C2)Cl)C | C24H19ClF3N5O3S
